US04871849
A mixture of 5.18 g of piperazine and 6.37 g of an anhydride of 6-fluoro-7-chloro-1-methylamino-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid and difluoroboric acid formed with 32 ml of dimethyl sulfoxide is stirred at 110° C. for 3 hours. To the reaction mixture 51 ml of a 6 weight/vol % aqueous sodium hydroxide solution are added and the aqueous reaction mixture is stirred under slight boiling for 2 hours. The reaction mixture is filtered, the filtrate is evaporated in vacuo to two-thirds of its volume and the pH of the solution is adjusted to 6.5-7 by adding acetic acid. The reaction mixture is allowed to crystallize in a refrigerator overnight. Next morning the precipitated crystals are filtered, washed twice with 10 ml of water each and with 5 ml of methanol. Thus 5.3 g of 6-fluoro-1-ethylamino-7-piperazino-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid are obtained. Yield: 82%. Mp.: 289°-291° C. (decomposition; from dimethyl formamide).

reactant | piperazine | 5.18 g | N1CCNCC1 | C4H10N2
reactant | 6-fluoro-7-chloro-1-methylamino-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | FC=1C=C2C(C(=CN(C2=CC1Cl)NC)C(=O)O)=O | C11H8ClFN2O3
reactant | difluoroboric acid | B(O)(F)F | BF2HO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl sulfoxide | 32 ml | CS(=O)C | C2H6OS
product | 6-fluoro-1-ethylamino-7-piperazino-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 5.3 g, Yield: 82% | FC=1C=C2C(C(=CN(C2=CC1N1CCNCC1)NCC)C(=O)O)=O | C16H19FN4O3
